US04892975
To a solution of 4,4'-dibromooctafluorobiphenyl (10 g, 21.9 mmol) in degassed diisopropylamine (350 mL) was added dichlorobis(triphenylphosphine) palladium (770 mg, 1.05 mmol, 5 mol %) and copper (1) acetate (219 mg, 1.05 mmol, 5 mol %). The solution was cooled to 0° C. and to this solution was added 2-methyl-3-butyn-2-ol (2.2 equivalents, 4.0 g, 4.7 mL). The solution was allowed to warm to room temperature and was subsequently heated at 50° C. for 12 hours. The solution was cooled and filtered to remove the precipitate of diisopropylammonium bromide. The solvent was removed at reduced pressure and the residue was chromatographed on a column of silica gel (200 g) packed with ethyl acetate. An oily yellow solid was removed from the column. The addition of a couple of drops of methanol caused the oil to solidify. The resulting solid was recrystallized from a mixture of ethyl acetate/hexane (1:2) to yield 4,4'-bis(3-hydroxy-3-methyl-1-butynyl) octafluorobiphenyl as white crystals. The yield was 8.6 (92%), mp 119° -121° C. IR (KBr) 3400, 2960, 1475, 1365, 1210, 1170, 990, 962 cm-1. 1H NMR (80 MHz, CDCl3) δ2.7 (s, 2H), 1.53 (s, 12H); Mass Spectrum (E1)(rel. intensity 462 (3.7), 447 (44.0), 432 (1.5); Anal. Calcd for C22H14F8O2 : C, 57.14; H, 3.03. Found: C,60.60; H,4.78.

reactant | 4,4'-dibromooctafluorobiphenyl | 21.9 mmol, 10 g | BrC1=C(C(=C(C(=C1F)F)C1=C(C(=C(C(=C1F)F)Br)F)F)F)F | C12Br2F8
reactant | 2-methyl-3-butyn-2-ol | 4.7 mL, 4.0 g, 2.2 equivalents | CC(C)(C#C)O | C5H8O
solvent | diisopropylamine | 350 mL | C(C)(C)NC(C)C | C6H15N
catalyst | copper (1) acetate | 1.05 mmol, 219 mg | C(C)(=O)[O-].[Cu+]
product | 4,4'-bis(3-hydroxy-3-methyl-1-butynyl) octafluorobiphenyl | OC(C#CC1=C(C(=C(C(=C1F)F)C1=C(C(=C(C(=C1F)F)C#CC(C)(O)C)F)F)F)F)(C)C | C22H14F8O2
